US09376379B2
Preparation of Tetrafluoroethanesulphonic Acid
The tetrafluoroethanesulfonic acid monohydrate (96 g) was taken in a reaction vessel and thionyl chloride (160 g) was added drop-wise at 25° C. over a period of 3 hours. The temperature of reaction mixture was raised to 80° C. and the mixture was refluxed for 30 minutes. The mixture was cooled to 40° C. The crude material (69 g) was subjected to distillation under vacuum.

reactant | tetrafluoroethanesulfonic acid monohydrate | 96 g | O.FC(C(S(=O)(=O)O)(F)F)F
reactant | thionyl chloride | 160 g | S(=O)(Cl)Cl | Cl2OS
product | Tetrafluoroethanesulphonic Acid | FC(C(S(=O)(=O)O)(F)F)F | C2H2F4O3S
